US07727979B2
2,2-dimethyl-cyclohexanone (Precursor-Product for Example C-26)
A suspension of potassium hydride (5.5 mmol) and 2-methylcyclohexanone (5 mmol) in dry tetrahydrofuran (10 ml) is stirred for 30 mins at room temperature. Triethylborane (6.25 mmol) is slowly added dropwise and the mixture is stirred for 16 hours at room temperature. After addition of methyl iodide stirring is continued for another 8 hours, the reaction is then quenched with saturated aqueous ammonium chloride solution and twice extracted with diethyl ether. The combined organic phases are dried over sodium sulphate and concentrated to dryness in a vacuum and produce the title compound, which can be reacted without [without] purification (JACS 1985, 107, 19, 5391-5396).

reactant | potassium hydride | 5.5 mmol | [H-].[K+]
reactant | 2-methylcyclohexanone | 5 mmol | CC1C(CCCC1)=O | C7H12O
reactant | Triethylborane | 6.25 mmol | C(C)B(CC)CC | C6H15B
reactant | methyl iodide | CI | CH3I
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2,2-dimethyl-cyclohexanone | CC1(C(CCCC1)=O)C | C8H14O
